************************************************************************
* auCdl Netlist:
* 
* Library Name:  tutorial
* Top Cell Name: TRI_INV
* View Name:     schematic
* Netlisted on:  Dec  5 19:54:33 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: tutorial
* Cell Name:    TRI_INV
* View Name:    schematic
************************************************************************

.SUBCKT TRI_INV EN IN OUT
*.PININFO EN:I IN:I OUT:O
MMP0 net15 IN vdd! vdd! pfet W=720n L=62n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ pccrit=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 sa=160n sb=160n sd=0 p_vta=0 
+ panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p panw8=0p 
+ panw9=0p panw10=0p
MMP2 net9 EN vdd! vdd! pfet W=720n L=62n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ pccrit=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 sa=160n sb=160n sd=0 p_vta=0 
+ panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p panw8=0p 
+ panw9=0p panw10=0p
MMP1 OUT net9 net15 vdd! pfet W=720n L=62n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ pccrit=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 sa=160n sb=160n sd=0 p_vta=0 
+ panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p panw8=0p 
+ panw9=0p panw10=0p
MMN2 net9 EN gnd! gnd! nfet W=520n L=62n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ PTWELL=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 pccrit=0 sa=160n sb=160n sd=0 
+ p_vta=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p 
+ panw8=0p panw9=0p panw10=0p
MMN1 net15 IN gnd! gnd! nfet W=520n L=62n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ PTWELL=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 pccrit=0 sa=160n sb=160n sd=0 
+ p_vta=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p 
+ panw8=0p panw9=0p panw10=0p
MMN0 OUT EN net15 gnd! nfet W=520n L=62n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ PTWELL=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 pccrit=0 sa=160n sb=160n sd=0 
+ p_vta=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p 
+ panw8=0p panw9=0p panw10=0p
.ENDS

